US08039460B2
Step F: 6-Phenyl-4-piperidin-4-ylpyridazin-3(2H)-one
Palladium (10% on carbon; 0.50 g) was added to a solution of benzyl 4-(3-oxo-6-phenyl-2,3-dihydropyridazin-4-yl)piperidine-1-carboxylate (1.10 g, 2.82 mmol) in ethanol (50 mL). The reaction vessel was evacuated and back-filled with nitrogen (3×), then back-filled with hydrogen (1 atm). After 24 h, the mixture was filtered through celite and concentrated to give the title compound (709 mg). MS 256.2 (M+1).

reactant | benzyl 4-(3-oxo-6-phenyl-2,3-dihydropyridazin-4-yl)piperidine-1-carboxylate | 2.82 mmol, 1.10 g | O=C1NN=C(C=C1C1CCN(CC1)C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C23H23N3O3
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Palladium | 0.50 g | [Pd] | Pd
product | 6-Phenyl-4-piperidin-4-ylpyridazin-3(2H)-one | 709 mg | C1(=CC=CC=C1)C=1C=C(C(NN1)=O)C1CCNCC1 | C15H17N3O
